US04377580
A mixture of 4-amino-6-(3-cyclopentylpropionamido)quinazoline (7.05 g) and dimethyl methoxymethylenepropanedioate (6.48 g) in N,N-dimethylformamide (28 ml) was stirred at 100° C. for 1 hour and 10 minutes. After cooling to ambient temperature, water was added to the reaction mixture. The resulting solid was separated by filtration, washed with water, and dried. The crude crystals were dissolved in a mixture of chloroform and methanol, treated with activated charcoal, and evaporated under reduced pressure until crystallization began. After cooling, the resulting solid was collected, washed with methanol and with dichloromethane, and dried. There was obtained crystalline methyl 4-oxo-10-(3-cyclopentylpropionamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate (2.16 g). The filtrate was evaporated under reduced pressure to give a residue which was chromatographed on silica gel with 1% methanoldichloromethane. The first fractions contained methyl 4-oxo-10-(3-cyclopentylpropionamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate (1.9 g). The second fractions contained dimethyl [[6-(3-cyclopentylpropionamido)-4-quinazolinylamino]methylene]propanedioate (5.16 g).

reactant | 4-amino-6-(3-cyclopentylpropionamido)quinazoline | 7.05 g | NC1=NC=NC2=CC=C(C=C12)NC(CCC1CCCC1)=O | C16H20N4O
reactant | dimethyl methoxymethylenepropanedioate | 6.48 g | COC=C(C(=O)OC)C(=O)OC | C7H10O5
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 28 ml | CN(C=O)C | C3H7NO
product | methyl 4-oxo-10-(3-cyclopentylpropionamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate | 2.16 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(CCC2CCCC2)=O)C(=O)OC | C21H22N4O4
